Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with h/o HTN, sub-massive PEs 
in ___ who presented with presyncope. Patient says she 
felt generalized malaise and weakness on the day of admission 
before being advised by a friend to seek medical attention. She 
says she recently stopped coumadin after being on it for initial 
pulmonary embolism diagnosis in ___ after a 
medically-managed right tibial fracture in ___. Per her PCP, 
patient was on Coumadin from ___, and it was stopped 
due to patient noncompliance at the ___ clinic. 
At ___ she was found to have extensive pulmonary emboli on 
CTA. She was recently treated for multiple PEs, including a 
saddle PE, in ___. EKG at the time showed evidence of RV 
strain. 

In the ED, initial vitals were: 96.5 94 151/76 19 98% NC. Vitals 
prior to transfer were: 94 120/64 22 94% NC.  

She was found to be hypoxic (85-87% on RA with improvement to 
96-99% on 4L) on presentation to ___ with bilateral 
extensive pulmonary embolisms on CTA. She was started on heparin 
at 1855 per OMR with bolus of 1830U with PTT goal 60-80. 

She was transferred to ___ @ 1200U/hr. Upon arrival to 
the floor, initial vitals were 97.5 147/72 94 18 91% 2L. She 
felt well and denied any complaints.
 
Past Medical History:
PAST MEDICAL HISTORY:
HTN  
Mechanical fall in ___

PAST SURGICAL HISTORY:
Appendectomy  
Cholecystectomy
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
 Vitals: 97.5 147/72 94 18 91% 2L  
 General: Alert, no acute distress. Oriented to person, 
"hospital," and time (although initially thought she was in the 
cellar)  
 HEENT: Sclera anicteric, EOMI  
 Neck: Supple, JVP not elevated  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended  
 GU: No foley  
 Ext: Warm, well perfused, no clubbing, cyanosis or edema  
 Neuro: CNII-XII grossly intact  

DISCHARGE PHYSICAL EXAM:
========================
 Vitals: 98.4; 86-99; 105-147/48-88; 93% 3L General: Alert, NAD. 
Alert and oriented x3. 
 HEENT: Sclera anicteric, EOMI
 Neck: Supple, JVP flat  
 CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
 Lungs: CTAB, no wheezes, rales, rhonchi  
 Abdomen: Soft, non-tender, non-distended  
 GU: No foley  
 Ext: trace edema, WWP, no clubbing, or cyanosis   
 Neuro: CNII-XII grossly intact  
 
Pertinent Results:
ADMISSION LABS:
===============

___ 01:15AM BLOOD Glucose-183* UreaN-18 Creat-1.1 Na-140 
K-3.8 Cl-108 HCO3-22 AnGap-14
___ 01:15AM BLOOD cTropnT-0.11* ___
___ 06:00AM BLOOD Calcium-9.3 Phos-3.8 Mg-2.1
___ 01:15AM BLOOD WBC-7.2 RBC-3.89* Hgb-12.0 Hct-36.4 
MCV-94 MCH-30.8 MCHC-33.0 RDW-14.5 RDWSD-50.1* Plt ___
___ 01:15AM BLOOD ___ PTT-150* ___
___ 06:00AM BLOOD ___ PTT-82.7* ___

DISCHARGE LABS:
===============
___ 05:40AM BLOOD WBC-5.0 RBC-3.63* Hgb-11.3 Hct-34.6 
MCV-95 MCH-31.1 MCHC-32.7 RDW-15.2 RDWSD-52.3* Plt ___
___ 05:40AM BLOOD ___ PTT-33.6 ___
___ 05:40AM BLOOD Glucose-104* UreaN-28* Creat-1.2* Na-141 
K-4.1 Cl-108 HCO3-25 AnGap-12
___ 05:40AM BLOOD Calcium-8.7 Phos-3.9 Mg-2.

Bilateral Lower Extremity veins ___:
========================================
FINDINGS:  
There is normal compressibility, flow, and augmentation of the 
left common 
femoral, femoral, and popliteal veins. Normal color flow and 
compressibility are demonstrated in the posterior tibial and 
peroneal veins. There is normal respiratory variation in the 
common femoral veins bilaterally. There is echogenic, 
noncompressible thrombus in the proximal, mid, and distal common 
femoral vein.  Additional echogenic, occlusive thrombus is seen 
in 1 of the paired posterior tibial veins.  The remainder of the 
visualized veins including the common femoral, popliteal, 1 of 
the paired posterior tibial, and peroneal veins are patent 
without evidence of thrombus. No evidence of medial popliteal 
fossa (___) cyst. 
  
IMPRESSION:  
Acute deep venous thrombosis of the right superficial femoral 
vein and 1 of the paired posterior tibial veins on the right.  
No evidence of deep venous thrombosis in the left lower 
extremity veins.

ECG ___:
=============
Sinus rhythm with sinus arrhythmia. Delayed precordial R wave 
progression.  
T wave inversions in the inferior and anterior leads which are 
rather 
non-specific but could be consistent with ischemia. They are 
unchanged from 
previous tracing. Clinical correlation is suggested.  

  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
86  156 80 402 447            ___ with PMH HTN, sub-massive PEs in ___ who presented 
with recurrent pulmonary emboli.  

#PE: The patient presented with shortness of breath s/p multiple 
PEs in ___. Her warfarin was recently discontinued by her 
PCP given resolution of PEs in ___ on ultrasound and 
patient noncompliance at ___. We placed the patient 
on a Heparin gtt during her hospital course. The heparin drip 
was removed by the patient after overnight episodes of confusion 
and she was transitioned to Apiximab as per discussions with 
Pharmacy and Hematology (issues with warfarin noncompliance in 
the past made this a less attractive option). The patient was 
satting between 92-99% on ___ NC for the majority of her stay. 
With an elevated BNP and troponins, a bilateral ultrasound of 
her lower extremities was performed and indicated 2 acute DVTs 
in the right lower extremity in the same location of the 
patient's previous fracture. The patient did not complain of 
chest pain or shortness of breath prior to discharge.

___: The patient's creatinine level increased from 1.1 to 1.3 
and she had decreased urine output. We gave the patient 500cc NS 
bolus to improve her creatinine level and urine output. The 
patient denied dysuria or polyuria.

#Hypertension: Held amlodipine on admission. The patient had 
elevated blood pressures during her hospital course but was 
discharged hemodynamically stable. Amlodipine was restarted on 
discharge.

#Altered Mental Status: The patient had multiple episodes of 
confusion in the evening/night hours. She pulled off peripheral 
IV lines and telemetry and was untrusting of staff. She was 
given Olanzapine, Seroquel and Trazodone during the course of 
her hospital stay. The patient became more comfortable when she 
was able to sit within view of nursing staff on the floor. 
Etiologies of her altered mental status included delirium, 
sundowning and infection. The patient remained afebrile with a 
WBC WNL and had a negative UA and no growth in urine or blood 
cultures. An EKG was also noted to be in normal sinus rhythm. 
The plan for patient discharge to a rehab facility will likely 
improve her mental status by being in a different environment.

=========================
TRANSITIONAL ISSUES:
========================= 
- Vital signs at discharge T 98.4 P ___ BP ___ SaO2 
93% 3L NC
- Vital signs per routine
- Physical therapy
- Started apixaban on 2.5mg BID 
- Needs follow-up with PCP on discharge from facility
- Follow-up scheduled with outpatient pulmonologist
- DIET: Heart healthy
- CODE STATUS: DNR/DNI (confirmed)
- CONTACT: ___, ___
 
Medications on Admission:
1. Amlodipine 5 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Apixaban 2.5 mg PO BID 
3. Senna 8.6 mg PO BID:PRN constipation 
4. Guaifenesin 10 mL PO Q6H:PRN cough 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
Recurrent pulmonary embolism

Secondary diagnosis: 
Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent
Level of consciousness: alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear. Ms ___,

It was a privilege to care for you at ___ 
___. You were admitted to the hospital for management 
of a clot in your lung, known as a pulmonary embolism. We gave 
you medications to prevent further enlargement of your clot and 
for the clot to be reabsorbed by your body. We gave you oxygen 
through your nose to improve your breathing. We looked at images 
of your legs and saw clots in your legs which were also treated 
with the same medication, heparin. We gave you some fluids to 
help increase your urination output. You responded well to the 
medication and your breathing improved significantly.

We have arranged for you to have an appointment wtih your PCP, 
Dr ___ pulmonologist, Dr ___. Please feel free to 
contact their offices or contact the hospital sooner if you have 
any questions or other important issues.

Thank you for letting us participate in your care.

Sincerely,
Your ___ Team
 
Followup Instructions:
___